US05594024
5-Nitro-(3-methoxyphenyl)-2-pentanone. (Intermediate, Racemic-72) (Scheme 5)
A mixture of 3-methoxynitrostyrene (6.96 g, 39 mmol) and ethyl-3-pyrrolidino-2-butenoate (7.10 g, 39 mmol) was refluxed in ethanol (100 mL) for 4.0 h. The solvent was then removed and the residue refluxed in 10% HCl (50 mL) for 2.0 h. After cooling to ambient temperature the reaction mixture was extracted with ethyl ether (3×25 mL). The extract was dried (MgSO4) and the solvent removed to yield 9.40 g of crude material as an oil. This was distilled twice using a Kugelrohr oven (225° C. C/0.4mm Hg) yielding 4.83 g of product. This was further purified by flash chromatography (n-hexane/ethyl acetate 1/1), yielding 3.25 g (35%) of a colorless oil.: MS (EI) m/e 237.15 (M+, 22), 190.05 (100), 175.05 (32), 149.05 (35), 148.05 (37), 134.05 (36), 115 (10, 20), 91.00 (28), 77.00 (21).

reactant | 3-methoxynitrostyrene | 39 mmol, 6.96 g | COC=1C=C(C=C[N+](=O)[O-])C=CC1 | C9H9NO3
reactant | ethyl-3-pyrrolidino-2-butenoate | 39 mmol, 7.10 g | C(C)OC(C=C(C)N1CCCC1)=O | C10H17NO2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Nitro-(3-methoxyphenyl)-2-pentanone | 4.83 g | [N+](=O)([O-])CCCC(CC1=CC(=CC=C1)OC)=O | C12H15NO4
